US06713490B2
To a suspension of 5-Fluoro-6-[1-hydroxy-2-[4-hydroxy-4-(3-methoxyphenyl)-1-piperidinyl]ethyl]-3,4-dihydroquinolin-2(1H)-one (216 mg, 0.522 mmol) in methanol (5 ml) was added 4N HCl-AcOEt (137 μl, 0.548 mmol) and the mixture was concentrated in vacuo. The residue was crystallized twice from 2-propanol to afford 5-Fluoro-6-[1-hydroxy-2-[4-hydroxy-4-(3-methoxyphenyl)-1-piperidinyl]ethyl]-3,4-dihydroquinolin-2(1H)-one hydrochloride as a white solid (190 mg, 81%).

reactant | 5-Fluoro-6-[1-hydroxy-2-[4-hydroxy-4-(3-methoxyphenyl)-1-piperidinyl]ethyl]-3,4-dihydroquinolin-2(1H)-one | 0.522 mmol, 216 mg | FC1=C2CCC(NC2=CC=C1C(CN1CCC(CC1)(C1=CC(=CC=C1)OC)O)O)=O | C23H27FN2O4
reactant | HCl AcOEt | 0.548 mmol, 4N, 137 μl | Cl.CCOC(=O)C
solvent | methanol | 5 ml | CO | CH4O
product | 5-Fluoro-6-[1-hydroxy-2-[4-hydroxy-4-(3-methoxyphenyl)-1-piperidinyl]ethyl]-3,4-dihydroquinolin-2(1H)-one hydrochloride | 190 mg, 81% | Cl.FC1=C2CCC(NC2=CC=C1C(CN1CCC(CC1)(C1=CC(=CC=C1)OC)O)O)=O | InChI=1S/C23H27FN2O4.ClH/c1-30-16-4-2-3-15(13-16)23(29)9-11-26(12-10-23)14-20(27)18-5-7-19-17(22(18)24)6-8-21(28)25-19;/h2-5,7,13,20,27,29H,6,8-12,14H2,1H3,(H,25,28);1H
